US07037921B2
3-(2-Chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid
Combine 3-(2-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid methyl ester (1.90 g, 0.0075 mol) with aqueous sodium hydroxide (2N, 15.0 mL, 0.03 mol), ethanol (3 mL), and tetrahydrofuran (3 mL). Stir for 4 hours at ambient temperature. Remove the organic solvents in vacuo and adjust the aqueous mixture to approx. pH 3.0 with aqueous hydrochloric acid. Extract with ethyl acetate and dry the combined extracts over sodium sulfate and concentrate in vacuo. Eluted over silica gel with methanol/dichloromethane allowing for isolation of the desired isoxazole acid as an off white solid (0.98 g, 55%). MS(ES): (M+1)+ 238.97, 240.97 m/z.

reactant | 3-(2-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid methyl ester | 0.0075 mol, 1.90 g | COC(=O)C=1C(=NOC1C)C=1C(=NC=CC1)Cl | C11H9ClN2O3
reactant | sodium hydroxide | 0.03 mol, 2N, 15.0 mL | [OH-].[Na+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(2-Chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carboxylic acid | ClC1=NC=CC=C1C1=NOC(=C1C(=O)O)C | C10H7ClN2O3
